Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-2.73673643064
[C:11]([H:12])([H:13])[O:14][H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15],-1.19785882972
[H:1][C:2][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-5.3061574212
[C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10].[O:1]>>[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10],-7.051440547160001
[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[O:13][H:14].[H:1]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[O:13][H:14],-3.84533962126
[C:7]([H:8])([O:9][H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])=[C:5][H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13],-1.66960509276
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1].[O:2]=[C:3]=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],2.99134357385
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13],4.509614577190001
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9][H:10]>>[H:7].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[O:8][C:9][H:10],3.76056783614
[C:1][C:2]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[C:3]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-7.32683973281
[H:1][C:2]#[C:3][C:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])[H:11].[O:12][H:13]>>[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-5.593523987239998
[O:1].[O:2][C@:3]([H:4])([C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1][O:2][C@@:3]([H:4])([C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-2.80926092892
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6].[O:7]=[C:8][H:9]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8][H:9],-2.1953579268400003
[C:4]([H:5])=[C:6]([H:7])[H:8].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6]([H:7])[H:8],-4.3809065123
[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.13940166036
[C:5]([H:6])([H:7])[O:8][H:9].[H:1][O:2][C:3]#[C:4]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][H:9],-4.92645184919
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],4.2443943866800025
[C:1][C:2][O:3].[C:4](=[O:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][O:3][C:4](=[O:5])[C:6]([H:7])([H:8])[H:9],-1.28744548972
[C:7]([H:8])([H:9])[H:10].[H:1][O:2]/[C:3](=[C:4]\[O:5][H:6])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3](=[C:4](/[O:5][H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.37423649589
[H:1][O:2][C:3]1=[C:4]([O:5][C:6]([H:7])[H:8])[C:9]1([H:10])[H:11]>>[H:1][O:2][C:3]([C:4][O:5][C:6]([H:7])[H:8])=[C:9]([H:10])[H:11],0.239379863779
[H:1][C:2]([H:3])([H:4])[C:5]([O:6][C:7]=[O:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])([H:4])[C:5]1[O:6][C:7][O:8][C:9]1([H:10])[H:11],1.17410531295
[H:12].[H:1][O:2][C:3][C:4]([O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]/[C:4]([O:5][H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-3.39696750457
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2][H:3].[O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],4.478836473169999
[H:1][C:2][O:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[O:9][H:10]>>[C:4](#[C:5][C:6]([H:7])[H:8])[O:9][H:10].[H:1][C:2]=[O:3],0.372617766048
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.62133503745
[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-3.81167980771
[H:1][O:2][C:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1].[O:2]=[C:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],1.70141319137
[C:5]=[C:6]([H:7])[H:8].[O:1]=[C:2]([H:3])[C:4][O:9][H:10]>>[O:1]=[C:2]([H:3])[C:4](=[C:5]=[C:6]([H:7])[H:8])[O:9][H:10],-6.068164660340001
[H:1][C:2]([H:3])[H:4].[O:5]=[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-0.8467602596100001
